US09359340B2
tert-Butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate was treated with HCl (4M in dioxane, 2 mL) in DCM (5 mL) for 6 hours to give (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride. MS (APCI+) [M+H] +235.

reactant | tert-Butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | O[C@@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H26N4O3
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | Cl.Cl.C[C@@H]1C[C@H](C=2N=CN=C(C21)N2CCNCC2)O | InChI=1S/C12H18N4O.2ClH/c1-8-6-9(17)11-10(8)12(15-7-14-11)16-4-2-13-3-5-16;;/h7-9,13,17H,2-6H2,1H3;2*1H/t8-,9-;;/m1../s1
